US05663053
1-(8-Bromooctyl)-2,4,5-triphenylimidazole (4 g) in dimethylsulphoxide (30 ml) was added dropwise to a mixture of sodium cyanide (0.5 g) in dry dimethylsulphoxide (30 ml ). The reaction mixture was stirred at 50° C. for 2 h, cooled and poured into water (400 ml). The aqueous was extracted with diethyl ether (4×100 ml ), the extracts were combined, washed with water (100 ml), dried over anhydrous magnesinm sulphate and evaporated to dryness in vacuo. Chromatography on silica gel eluted with a dichloromethane:methanol gradient and recrystallisation from ether gave 1-(8-cyanoctyl)-2,4,5-triphenylimidazole (1.1 g, 31%) as a white solid, m.p. 72°-73°. Found: C, 83.10; H, 7.21; N, 9.69%; C30H31N3 requires: C, 82.90; H, 7.19; N, 9.57%.

reactant | 1-(8-Bromooctyl)-2,4,5-triphenylimidazole | 4 g | BrCCCCCCCCN1C(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C29H31BrN2
reactant | sodium cyanide | 0.5 g | [C-]#N.[Na+]
reactant | water | 400 ml | O | H2O
solvent | dimethylsulphoxide | 30 ml | CS(=O)C | C2H6OS
solvent | dimethylsulphoxide | 30 ml | CS(=O)C | C2H6OS
product | 1-(8-cyanoctyl)-2,4,5-triphenylimidazole | 1.1 g, 31% | C(#N)CCCCCCCCN1C(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C30H31N3
